US04087542
By following substantially the procedure described in Step A, the partially resolved 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)-benzofuran-2-carboxylic acid (12.0 g., 0.035 mole); (obtained from acetonitrile mother liquor of step A) and (+)-α-methylbenzylamine (4.3 g., 0.035 mole) are mixed in acetonitrile (1000 ml.). The resultant salt (14.5 g.) was thrice recrystallized from a minimum volume of acetonitrile and ethanol (10:1) to obtain 9.4 g. of the salt of the pure (-)-enantiomer which is converted to the acid by treatment of the salt with dilute hydrochloric acid and ether.

reactant | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)-benzofuran-2-carboxylic acid | 0.035 mole, 12.0 g | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O4S
reactant | acetonitrile | C(C)#N | C2H3N
product | (+)-α-methylbenzylamine | 0.035 mole, 4.3 g | CC(C1=CC=CC=C1)N | C8H11N
